US09328118B2
After a solution of tert-butyl 3-(2-ethoxy-2-oxoethyl)-8-azabicyclo[3.2.1]octane-8-carboxylate (1.7 g) in THF (10 mL) was cooled to −78° C. in an argon atmosphere, a 1.02 M solution of diisobutylaluminium hydride in toluene (17.5 mL) was added dropwise thereto, then, the mixture was stirred at the same temperature for 1 hour, and further stirred at 0° C. for 30 minutes. An aqueous Rochelle salt solution and EtOAc were added the reaction mixture, followed by stirring for 1 hour. After the temperature of the reaction mixture was raised to room temperature, extraction thereof was performed using EtOAc, and the extract was washed with saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=97:3 to 80:20), whereby tert-butyl 3-(2-hydroxyethyl)-8-azabicyclo[3.2.1]octane-8-carboxylate (0.83 g) was obtained as a colorless oil.

reactant | tert-butyl 3-(2-ethoxy-2-oxoethyl)-8-azabicyclo[3.2.1]octane-8-carboxylate | 1.7 g | C(C)OC(CC1CC2CCC(C1)N2C(=O)OC(C)(C)C)=O | C16H27NO4
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | toluene | 17.5 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-(2-hydroxyethyl)-8-azabicyclo[3.2.1]octane-8-carboxylate | 0.83 g | OCCC1CC2CCC(C1)N2C(=O)OC(C)(C)C | C14H25NO3
